US09353108B2
B) Ethyl 2,6-diethoxy-4′-fluorobiphenyl-4-carboxylate
Palladium acetate (1.98 g), tripotassium phosphate (112 g), (4-fluorophenyl)boronic acid (43.1 g), and tricyclohexylphosphine (20% toluene solution, 31.2 mL) were added to a mixture of ethyl 4-bromo-3,5-diethoxybenzoate (55.8 g) in toluene (300 mL) and water (150 mL), and the resultant mixture was heated with stirring overnight at 90° C. in an argon atmosphere. The reaction mixture was allowed to cool to room temperature, and then, water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated saline in this order. The organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (50.7 g).

reactant | tripotassium phosphate | 112 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (4-fluorophenyl)boronic acid | 43.1 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | tricyclohexylphosphine | 31.2 mL | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | ethyl 4-bromo-3,5-diethoxybenzoate | 55.8 g | BrC1=C(C=C(C(=O)OCC)C=C1OCC)OCC | C13H17BrO4
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 150 mL | O | H2O
catalyst | Palladium acetate | 1.98 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 2,6-diethoxy-4′-fluorobiphenyl-4-carboxylate | 50.7 g | C(C)OC1=C(C(=CC(=C1)C(=O)OCC)OCC)C1=CC=C(C=C1)F | C19H21FO4
